US05059597
b) Ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-ethoxyacrylate
13.7 g of ethyl (2,4-dichloro-3,6-difluorobenzoyl)acetate are heated under reflux with 10.25 g of triethyl orthoformate and 11.8 g of acetic anhydride for 2 hours. The mixture is then concentrated in vacuo up to a bath temperature of 140° C. and 15.7 g of ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-ethoxy-acrylate are obtained as an oil, nD25 : 1.5302.

reactant | ethyl (2,4-dichloro-3,6-difluorobenzoyl)acetate | 13.7 g | ClC1=C(C(=O)CC(=O)OCC)C(=CC(=C1F)Cl)F | C11H8Cl2F2O3
reactant | triethyl orthoformate | 10.25 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 11.8 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-ethoxyacrylate | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C(=CC(=C1F)Cl)F | C14H12Cl2F2O4
